Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dizziness, stuttered speech, right sided weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ right-handed man with Hep C, HTN, DM c/b 
retinopathy and neuropathy, and positive smoking history who 
presents with episode of stuttering and leaning to the right 
side x10-15mins that self-resolved this morning at approximately 
11:30am.

As per the pt, this morning (___) he awoke at approximately 
8:30am and gave himself 60U Lantus without checking his blood 
glucose.  He proceeded to leave the house and go to Stop and 
Shop with other members from his apartment complex without 
eating or drinking anything since he "knew that his blood sugar 
was high since he didn't take his insulin yesterday."  After he 
returned from Stop and Shop, he was talking with a neighbor at 
approximately ___ when he started to notice that he was 
stuttering which he reports is odd for him as he has not 
stuttered since he was a child.  As he was walking with his 
neighbor, he felt "dizzy" (unsteady on his feet) and noted that 
he was leaning towards the right as he walked.  He also noticed 
that when he would walk that his strides were shorter with the 
right leg and he was shuffling the leg instead of taking a 
normal stride.  Since he sometimes feels off and gets hot and 
sweaty(though not having any at the present time) when he is 
hypoglycemic, he went home and ate a sandwich and felt better. 
He then laid down for a nap and slept for ___.  When he awoke 
at approximately 7pm he was asymptomatic, but due to concerns 
that this may have been a stroke, he came to the ED to be
evaluated.  His blood sugar when awoke was 133.

Pt reports that he had another episode approximately ___ 
ago at ___ when he found himself also listing to the right 
when he walked to his car. He states that he had a transient 
episode of confusion when he went to put the car in gear looking 
for the gear shift on the steering wheel instead of the middle
console, but his confusion quickly abated and he was able to 
drive home. He had no further symptoms and did not see medical 
attention at that time.

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, vertigo, tinnitus or 
hearing difficulty. Denies difficulties producing or 
comprehending speech.  Denies numbness, parasthesiae. No bowel 
or bladder incontinence or retention. 

On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgias or myalgias. Denies rash.

NIHSS: Total _0
1a.    Level of Consciousness _ 0
1b.    LOC Questions _0
1c.    LOC Commands _0
2.     Best Gaze _0
3.     Visual _0
4.     Facial Palsy _0
5a.    Left arm Motor 0_
5b.    Right arm Motor 0_
6a.    Left leg Motor _0
6b.    Right leg Motor _0
7.     Limb Ataxia _   0
8.     Sensory _0
9.     Best Language _0
10.    Dysarthria _0
11.    Extinction/Inattention _ 0
 
Past Medical History:
Hep C, HTN, DM c/b retinopathy and neuropathy

 
Social History:
___
Family History:
Dad: DM. No FHx of stroke, seizure, sudden death ___, easy 
bleeding/bruising.

 
Physical Exam:
Admission Physical Exam:
Vitals: T97.9 HR 85 BP 168/91 RR 16 98%RA
General: awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:
Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive. Language is fluent with intact 
repetition and comprehension. Normal prosody. There were no 
paraphasic errors. Pt was able to name both high and low
frequency objects.  Speech was not dysarthric. Able to follow 
both midline and appendicular commands. There was no evidence of 
apraxia or neglect.

Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. +b/l leg shaking/tremor when sitting, no tremor in 
UE. No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

Sensory: No deficits to light touch, pinprick throughout. No 
extinction to DSS.

DTRs:
  Bi ___ Pat Ach
L  2   2    2   1
R  2   2    2   1
Plantar response was flexor bilaterally.

Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

Gait: Good initiation. Narrow-based, normal stride and arm 
swing. Able to walk in tandem without difficulty. Romberg 
absent.

Exam on discharge unchanged, as described above.
 
Pertinent Results:
ADMISSION LABS 
___ 08:21PM   WBC-7.1 RBC-5.86 HGB-13.4* HCT-43.9 MCV-75* 
MCH-22.9* MCHC-30.5* RDW-13.8 RDWSD-36.7
___ 08:21PM   CK-MB-3
___ 08:21PM   cTropnT-<0.01
___ 08:21PM   ALT(SGPT)-18 AST(SGOT)-20 CK(CPK)-101 ALK 
PHOS-55 TOT BILI-0.6
___ 08:29PM   %HbA1c-8.2* eAG-189*
___ 01:45AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-300* KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 01:45AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS* amphetmn-NEG oxycodn-NEG mthdone-NEG

PERTINENT LABS
___ 10:11AM   CK-MB-3 cTropnT-<0.01
___ 10:11AM   TRIGLYCER-153* HDL CHOL-47 CHOL/HDL-3.0 
LDL(CALC)-65
___ 10:11AM   TSH-0.72

CT, CTA H/N ___ 
No evidence of acute territorial infarction or intracranial 
hemorrhage. Chronic bilateral basal ganglia lacunar infarcts.  
No definite acute changes. Minimal right ICA origin narrowing. 
Intracranial atherosclerotic disease, multivessel narrowing, as 
above. Suggestion of pulmonary artery hypertension. 

MR HEAD ___ 
1. No acute intracranial abnormality on noncontrast MRI head. 
Specifically no acute infarct. 
2. Millimetric focus of mildly increased signal on diffusion in 
the left 
frontal subcortical white matter is equivocal, but may represent 
a late 
subacute to chronic infarction. 
3. Additional findings described above. 

 
Brief Hospital Course:
Mr. ___ is a ___ right-handed male with a history of 
Hep C, hypertension, tobacco use, and poorly controlled diabetes 
mellitus c/b retinopathy and neuropathy, who was admitted to 
___ following an episode of stuttering, unsteadiness and right 
leg weakness that lasted ___, but self-resolved. CT/CTA 
were notable for two old chronic infarcts in bilateral basal 
ganglia, as well as severe stenosis of the M1 L MCA and moderate 
stenosis of the M1 R MCA. MRI similarly negative for acute 
infarct but noted an area suspicious for late subacute to 
chronic infarction in the left frontal subcortical white matter. 
Described symptoms appear most consistent with a TIA in the 
setting of intracranial atherosclerosis with superimposed 
metabolic derangements (hypoglycemia)contributing. NIHSS on 
admission was 0 and neurologic exam remained non-focal through 
discharge. 

#Chronic Bilateral Basal Ganglia Infarcts: Given the chronic 
timeline of infarcts, patient was not a candidate for tPA. He 
was however assessed for stroke risk factors and instructed to 
continue taking aspirin daily. In addition to known hypertension 
and hyperlipidemia (on atorvastatin at home, LDL pending) 
patient was found to have poorly controlled diabetes HbA1c 8%. 
He was counseled on smoking cessation as well as educated on the 
importance of checking blood glucose levels with meals. 
Atorvastatin was increased from 40mg to 80mg. 

#MCA stenosis: CTA on admission revealed severe M1 left MCA 
stenosis and moderate stenosis of the M1 right MCA. Treatment 
was directed towards medical optimization with an increase in 
atorvastatin from 40mg to 80mg daily. Patient was also started 
on dual antiplatelet therapy--prescribed Plavix for 3 months in 
addition to daily aspirin. Patient will benefit from tighter 
glycemic control.

#Episode of Stuttering/R leg weakness: Patient has described at 
least 2 similar episodes in the past ___ months in various 
situations, raising suspicion for TIA in the setting of 
intracranial stenosis. CTA on admission revealed severe stenosis 
of the M1 left MCA which may correlate with symptoms of R leg 
weakness. Of note, patient reports waking up the morning of 
admission and administering 60U lantus without breakfast as he 
missed his pm dose of insulin. ___ hours later he noted the 
onset of dizziness and listing to the right. He attributed these 
to hypoglycemia and felt better after eating. Given this history 
in the setting of known intracranial stenosis, described episode 
may be a recrudescence of stroke symptoms in the setting of 
metabolic derangement (hypoglycemia). Patient was counseled on 
stroke prevention and risk factors were addressed as above. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (X) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (X) Yes - () No  
 4. LDL documented? (X) Yes (LDL =65) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (X) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL   
 6. Smoking cessation counseling given? (X) Yes - () No [reason 
() non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(X) Yes - () No  
 9. Discharged on statin therapy? (X) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? (X) Yes [Type: (X) 
Antiplatelet - () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (X) N/A  

Transitional Issues:
[]CTA with bilateral chronic lacunar infarcts and intracranial 
stenosis: patient will benefit from optimization of 
cardiovascular risk factors, especially glycemic control (HbA1c 
8%). Aspirin/Plavix x 3 months, and then continue with aspirin 
daily 
[]Urine on admission positive for cocaine. Patient also has long 
history of smoking. Counseled on substance abuse. Please 
continue to offer resources in outpatient setting 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Glargine 65 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
4. Lisinopril 10 mg PO DAILY 
5. Pregabalin 75 mg PO BID 
6. Victoza (liraglutide)  1.8 mg subcutaneous QAM 
7. Verapamil SR 240 mg PO Q24H 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY 
You will need to take it for 3 months  
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth each evening Disp 
#*30 Tablet Refills:*0 
4.  Glargine 65 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
5.  Lisinopril 10 mg PO DAILY  
6.  Pregabalin 75 mg PO BID  
7.  Verapamil SR 240 mg PO Q24H  
8.  Victoza (liraglutide)  1.8 mg subcutaneous QAM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Ischemic Attack 
Chronic Ischemic Stroke(bilateral basal ganglia infarcts)
Intracranial Arterial Stenosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

 You were hospitalized due to symptoms of dizziness and right 
leg weakness that resolved before you arrived at the hospital. 
You have experienced similar episodes previously. These symptoms 
are due to a TIA or Transient Ischemic Attack. You mostly likely 
suffered these symptoms because of atherosclerosis (blockage) 
found in the large vessels that provide blood flow to your 
brain. Your symptoms may have also been exacerbated by your low 
blood sugar. Although you did not have a new stroke, imaging 
showed that you had evidence of prior ISCHEMIC STROKES, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms. 

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 <>  high blood pressure
 <>  high cholesterol 
 <>  diabetes 
 <>  smoking 

 We are changing your medications as follows:  
 <>  You were started on a new medication called Plavix 
(clopidogrel 75mg). You will need to take this daily for 3 
months
 <>  The dose of your atorvastatin was increased to 80mg daily 
 <>  Continue to take aspirin daily 

 Please take your other medications as prescribed.  It is also 
very important that you check your blood sugar with meals before 
administering insulin. 

 Please follow up with Neurology and your primary ___ physician 
as listed below.  

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___